US09447030B2
To a solution of tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate (0.20 g, 0.70 mmol, 1.0 equiv.) in dichloromethane (4 mL) was added isopropyl isocyanate (0.07 mL, 0.83 mmol, 1.2 equiv.) and TEA (0.19 mL, 1.37 mmol) at 0° C. The reaction was stirred at room temperature for 16 h. The reaction was then diluted with dichloromethane and water. The organic layer was separated, washed with water and brine, dried over sodium sulfate, then concentrated under reduced pressure. The crude material was purified by column chromatography (silica gel, 20% EtOAc/hexanes) to give tert-butyl (2-(3-isopropylureido)-4-(thiophen-2-yl)phenyl)carbamate (0.18 g, 70% yield).

reactant | tert-butyl (2-amino-4-(thiophen-2-yl)phenyl)carbamate | 0.70 mmol, 0.20 g, 1.0 equiv. | NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O | C15H18N2O2S
reactant | isopropyl isocyanate | 0.83 mmol, 0.07 mL, 1.2 equiv. | C(C)(C)N=C=O | C4H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | tert-butyl (2-(3-isopropylureido)-4-(thiophen-2-yl)phenyl)carbamate | 0.18 g, 70% yield | C(C)(C)NC(NC1=C(C=CC(=C1)C=1SC=CC1)NC(OC(C)(C)C)=O)=O | C19H25N3O3S
